US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-{2-[(pyridin-4-ylmethyl)amino]ethyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
Triethylamine(0.1 ml) and 4-pyridine carbaldehyde(0.094 ml) were added to a methanol solution (10 ml) of 7-(2-aminoethyl)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine 2,4-dione hydrochloride(0.26 g). The mixture was stirred at room temperature for 1 hour. Sodium borohydride(0.11 g) was added, and the mixture was further stirred at room temperature overnight. The reaction liquid was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=9:1→3:2). The purified product was condensed under reduced pressure to give the title compound(0.21 g) as a colorless oily matter.

reactant | Triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-pyridine carbaldehyde | 0.094 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 7-(2-aminoethyl)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine 2,4-dione hydrochloride | 0.26 g | Cl.NCCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1
reactant | Sodium borohydride | 0.11 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1-ethyl-3,3,5-trimethyl-7-{2-[(pyridin-4-ylmethyl)amino]ethyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.21 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCNCC2=CC=NC=C2 | C22H28N4O2
